US08440660B2
6-(4-Aminoacetoxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline monohydrochloride (Compound No. 3-1)
6-(4-t-Butoxycarbonylaminoacetoxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline (Reference Compound No. 4-1, 20.1 mg, 0.034 mmol) was dissolved in 1,4-dioxane (0.5 mL), 4N hydrogen chloride/1,4-dioxane solution (34 μL) was added thereto, and then the mixture was stirred at room temperature overnight. The reaction mixture was concentrated under reduced pressure to give the titled compound (17.5 mg) as a colorless solid. (Yield 98%)

reactant | 6-(4-t-Butoxycarbonylaminoacetoxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline | C(C)(C)(C)OC(=O)NCC(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC(=C1)F)C)OC | C34H39FN2O6
reactant | hydrogen chloride 1,4-dioxane | 4N, 34 μL | Cl.O1CCOCC1
solvent | 1,4-dioxane | 0.5 mL | O1CCOCC1 | C4H8O2
product | 6-(4-Aminoacetoxy-2-methoxyphenyl)-5-(5-fluoro-2-methylphenoxymethyl)-2,2,4-trimethyl-1,2-dihydroquinoline monohydrochloride | 17.5 mg, Yield 98% | Cl.NCC(=O)OC1=CC(=C(C=C1)C=1C(=C2C(=CC(NC2=CC1)(C)C)C)COC1=C(C=CC(=C1)F)C)OC | InChI=1S/C29H31FN2O4.ClH/c1-17-6-7-19(30)12-25(17)35-16-23-21(10-11-24-28(23)18(2)14-29(3,4)32-24)22-9-8-20(13-26(22)34-5)36-27(33)15-31;/h6-14,32H,15-16,31H2,1-5H3;1H
